US06916899B2
Preparation of 4-hydroxybenzoic Acid Cyclododecyl Ester:
22.82 g (0.15 mol) p-hydroxybenzoic acid methyl ester, 55.30 g (0.30 mol) cyclododecanol and 28 mg (0.1 mmol) tetraisopropyl orthotitanate are placed under argon in a round-bottom flask with distillation bridge. The mixture is stirred and heated to 160° C. within one hour. On reaching this temperature the pressure is reduced to 900 mbar and during the further course of the reaction to 800 mbar, during which time methanol is removed by distillation. Stirring is continued for 5 hours at this temperature. A further 0.05 ml tetraisopropyl orthotitanate are added and the reaction mixture is stirred for a further 20 hours at 170° C. under normal pressure. The residue undergoes column chromatography (silica gel 60, 0040-0.063 mm, Merck). An n-hexane/acetone mixture (5:1) is used as eluent. The product obtained in this way is freed from adhering cyclododecanol under high vacuum at 140° C. The residue is recrystallised in acetone. 5.9 g (13%) in the form of colourless crystals are obtained:

reactant | p-hydroxybenzoic acid methyl ester | 0.15 mol, 22.82 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | cyclododecanol | 0.30 mol, 55.30 g | C1(CCCCCCCCCCC1)O | C12H24O
catalyst | tetraisopropyl orthotitanate | 0.1 mmol, 28 mg | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
solvent | methanol | CO | CH4O
product | 4-hydroxybenzoic Acid Cyclododecyl Ester | C1(CCCCCCCCCCC1)OC(C1=CC=C(C=C1)O)=O | C19H28O3
